USRE038963E1
To a solution of boron dimethyl-trifluoro sulphide (3.9 g, 30 mmoles) in 75 ml of dichloromethane cooled to −60° C. trifluoroacetic anhydride (6.3 g, 30 mmoles) is added slowly. The mixture is shaken for 10 minutes and a solution of α-methylstyrene (3.54 g, 30 mmoles) in 15 ml de dicloromethane added slowly, maintaining the temperature at −60° C. Then the temperature is allowed to rise to −50° C., and kept at this value for 15 minutes, then allowed to rise to 0° C. and the mixture shaken under these conditions for 30 minutes. 50 ml of ethyl ether and 50 ml of an aqueous solution of 10% sodium bicarbonate solution are added. The phases are separated and the aqueous phase washed with more ether. The combination of the ether phases is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness with a rotavapor The crude product thus obtained is purified using column chromatography through silica gel under pressure eluting with petrol ether. 2.0 g (51%) of unreacted starting α-methylstyrene and 2.35 g of (E)-1,1,1-trifluoro-4-phenyl-3-butene-2-one (yield 75%) were recovered in the form of colourless oil.

reactant | trifluoroacetic anhydride | 30 mmoles, 6.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | α-methylstyrene | 30 mmoles, 3.54 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | (E)-1,1,1-trifluoro-4-phenyl-3-butene-2-one | 2.35 g, yield 75% | FC(C(\C=C\C1=CC=CC=C1)=O)(F)F | C10H7F3O
